US07572922B2
[(4R)-2,2-Dimethyl-5-oxo-1,3-dioxolan-4-yl]acetic acid
A solution of 25.05 g D-malic acid and 68.1 g 2,2-dimethoxypropane in 200 mL toluene was refluxed for 2 hours under nitrogen. The solvent was removed under reduced pressure to give the title compound as a white solid. 1H NMR (CDCl3, 500 MHz) δ 4.76 (dd, J=3.9 & 6.6 Hz, 1H), 3.02 (dd, J=3.9 & 17.2 Hz, 1H), 2.88 (dd, J=6.6 & 17.2 Hz, 1H), 1.64 (s, 3H), 1.59 (s, 3H).

reactant | D-malic acid | 25.05 g | C([C@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | 2,2-dimethoxypropane | 68.1 g | COC(C)(C)OC | C5H12O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | [(4R)-2,2-Dimethyl-5-oxo-1,3-dioxolan-4-yl]acetic acid | CC1(OC([C@H](O1)CC(=O)O)=O)C | C7H10O5
